US04987235
Preparation of 5,6-dimethoxv-2-p-tolylsulfonylisoindoline
1.89 g (11 mmol) of p-toluenesulfonamide was added to 20 ml of N,N-dimethylformamide, and 3.3 g (24 mmol) of pulverised potassium carbonate and 2.0 g (8.5 mmol) of 4,5-bischloromethyl veratrol were added thereto at room temperature under stirring. The mixture was stirred at room temperature for 20 hours, and after an addition of 40 ml of water, extracted with methylene chloride. The extract was washed with water, and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the crystalline residue was washed with diisopropyl ether to obtain 2.7 g (yield: 95.2%) of the above identified compound.

reactant | p-toluenesulfonamide | 11 mmol, 1.89 g | CC=1C=CC(=CC1)S(=O)(=O)N | C7H9NO2S
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 24 mmol, 3.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4,5-bischloromethyl veratrol | 8.5 mmol, 2.0 g | ClCC=1C=C(C(=CC1CCl)OC)OC | C10H12Cl2O2
solvent | water | 40 ml | O | H2O
product | 5,6-dimethoxv-2-p-tolylsulfonylisoindoline | yield: 95.2% | COC=1C=C2CN(CC2=CC1OC)S(=O)(=O)C1=CC=C(C=C1)C | C17H19NO4S
